US05543507
7-Bromoheptanol will be treated with dihydropyrane in the presence of acid to give 1-O-(tetrahydropyran-2-yl)-7-bromoheptanol.

reactant | 7-Bromoheptanol | BrCCCCCCCO | C7H15BrO
reactant | dihydropyrane | O1CCCC=C1 | C5H8O
product | 1-O-(tetrahydropyran-2-yl)-7-bromoheptanol | O1C(CCCC1)OCCCCCCCBr | C12H23BrO2
